*  Generated for: PrimeSim
*  Design library name: group8
*  Design cell name: SRAM_8x4_array_dummy
*  Design view name: schematic
.option search='/mnt/designkits/ncsu/FreePDK3/hspice/models'


.option PARHIER = LOCAL
.option PORT_VOLTAGE_SCALE_TO_2X = 1
.option S_ELEM_CACHE_DIR = "/mnt/ncsudrive/h/hrajesh/.synopsys_custom/sparam_dir"
.option PVA_OUTPUT_DIR = "/mnt/ncsudrive/h/hrajesh/.synopsys_custom/pva_dir"

.option WDF=1
.temp 25
.lib 'fet.mod' nfet_typ
.lib 'fet.mod' pfet_typ

*PrimeWave Design Environment Based on Custom Infrastructure
*Version W-2024.09-SP1-2
*Thu Apr  3 16:13:05 2025

.global gnd! vdd!
********************************************************************************
* Library          : group8
* Cell             : sram_6t
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt sram_6t bl bl_bar wl
m1 qbar q vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m0 q qbar vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m5 bl wl q nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m6 qbar wl bl_bar nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m3 qbar q gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m2 q qbar gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
.ends sram_6t

********************************************************************************
* Library          : group8
* Cell             : nand_i3
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt nand_i3 a b c out
m4 out a net8 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
m3 net8 b net5 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m2 net5 c gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m7 out c vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m6 out b vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m5 out a vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends nand_i3

********************************************************************************
* Library          : group8
* Cell             : inv
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt inv in out
m0 out in vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m1 out in gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=1.17e-07 pseo=1.17e-07
.ends inv

********************************************************************************
* Library          : group8
* Cell             : static_row_decoder_3by8
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt static_row_decoder_3by8 a0 a1 a2 y0 y1 y2 y3 y4 y5 y6 y7
xi52 a2 net66 net67 net61 nand_i3
xi53 a2 net66 a0 net62 nand_i3
xi54 a2 a1 net67 net63 nand_i3
xi55 a2 a1 a0 net64 nand_i3
xi39 net80 a1 a0 net68 nand_i3
xi38 a1 a1 net67 net60 nand_i3
xi37 net80 net66 a0 net59 nand_i3
xi36 net80 net66 net67 net58 nand_i3
xi18 a0 net67 inv
xi17 a1 net66 inv
xi16 a2 net80 inv
xi44 net58 y0 inv
xi45 net59 y1 inv
xi46 net60 y2 inv
xi51 net64 y7 inv
xi50 net63 y6 inv
xi49 net62 y5 inv
xi48 net61 y4 inv
xi47 net68 y3 inv
.ends static_row_decoder_3by8

********************************************************************************
* Library          : group8
* Cell             : precharge_logic
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt precharge_logic bl bl_bar clk
m5 bl_bar clk vdd! pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m4 vdd! clk bl pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m3 bl clk bl_bar pfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
.ends precharge_logic

********************************************************************************
* Library          : group8
* Cell             : nand
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt nand a b y
m1 net4 b gnd! nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m0 y a net4 nfet nfin=2 adeo=5.67e-16 aseo=5.67e-16 pdeo=117n pseo=117n
m3 y b vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
m2 y a vdd! pfet nfin=4 adeo=1.134e-15 aseo=1.134e-15 pdeo=2.34e-07 pseo=2.34e-07
.ends nand

********************************************************************************
* Library          : group8
* Cell             : SRAM_8x4_array_dummy
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi31 bl<0> blb<0> wl0 sram_6t
xi30 bl<1> blb<1> wl0 sram_6t
xi29 bl<2> blb<2> wl0 sram_6t
xi28 bl<3> blb<3> wl0 sram_6t
xi27 bl<0> blb<0> wl1 sram_6t
xi26 bl<1> blb<1> wl1 sram_6t
xi25 bl<2> blb<2> wl1 sram_6t
xi24 bl<3> blb<3> wl1 sram_6t
xi23 bl<0> blb<0> wl2 sram_6t
xi22 bl<1> blb<1> wl2 sram_6t
xi21 bl<2> blb<2> wl2 sram_6t
xi20 bl<3> blb<3> wl2 sram_6t
xi19 bl<0> blb<0> wl7 sram_6t
xi18 bl<1> blb<1> wl7 sram_6t
xi17 bl<2> blb<2> wl7 sram_6t
xi16 bl<3> blb<3> wl7 sram_6t
xi15 bl<0> blb<0> wl6 sram_6t
xi14 bl<1> blb<1> wl6 sram_6t
xi13 bl<2> blb<2> wl6 sram_6t
xi12 bl<3> blb<3> wl6 sram_6t
xi11 bl<0> blb<0> wl5 sram_6t
xi10 bl<1> blb<1> wl5 sram_6t
xi9 bl<2> blb<2> wl5 sram_6t
xi8 bl<3> blb<3> wl5 sram_6t
xi7 bl<0> blb<0> wl4 sram_6t
xi6 bl<1> blb<1> wl4 sram_6t
xi5 bl<2> blb<2> wl4 sram_6t
xi4 bl<3> blb<3> wl4 sram_6t
xi3 bl<3> blb<3> wl3 sram_6t
xi2 bl<2> blb<2> wl3 sram_6t
xi1 bl<1> blb<1> wl3 sram_6t
xi0 bl<0> blb<0> wl3 sram_6t
xi34 a0 a1 a2 net152 wl1 wl2 wl3 wl4 wl5 wl6 wl7 static_row_decoder_3by8
m193 wdt en bl<3> pfet nfin=20 adeo=5.67e-15 aseo=5.67e-15 pdeo=1.17e-06 pseo=1.17e-06
m192 wdb en blb<3> pfet nfin=20 adeo=5.67e-15 aseo=5.67e-15 pdeo=1.17e-06 pseo=1.17e-06
xi38 bl<3> blb<3> pc precharge_logic
xi37 bl<2> blb<2> pc precharge_logic
xi36 bl<1> blb<1> pc precharge_logic
xi35 bl<0> blb<0> pc precharge_logic
v50 wlref gnd! dc=0 pwl ( 20p 0.0 25p 0.8 80p 0.8 85p 0.0 td=10p )
v39 pc gnd! dc=0.8 pwl ( 0p 0 5p 0 10p 0.8 )
v195 wdt gnd! dc=0
v51 vdd! gnd! dc=0.8
v191 wdb gnd! dc=0.8
v43 a2 gnd! dc=0
v42 a1 gnd! dc=0
v41 a0 gnd! dc=0
xi48 wlref net152 net157 nand
xi49 net157 wl0 inv
v194 en gnd! dc=0.8 pulse ( 0 0.8 0 1p 1p 15p 200p )


.ic  v(xi28.qbar)=0  v(xi28.q)=0.8






.tran 0.1p 200p start=0
.option opfile=1 split_dp=1
.option probe=1
.probe tran v(*) level=1
.probe tran v(bl<3>) v(blb<3>) v(xi28.q) v(xi28.qbar) v(pc) v(wdb) v(wdt) v(wl0)
+ v(wlref) v(en)








.end
